US05045552
2-[{4-(3-Hydroxypropoxy)-3-methylpyridine-2-yl}methylthio]-1H-benzimidazole
80 ml of ethanol was added to a mixture comprising 1.39 g (9.27 mmol) of 2-mercaptobenzimidazole, 2.0 g (9.27 mmol) of 2-chloromethyl-4-(3-hydroxypropoxy)-3-methylpyridine and 0.44 g (11.1 mmol) of sodium hydroxide. The obtained mixture was stirred at 50° C. for one hour. After the completion of the reaction, the reaction mixture was concentrated. The obtained residue was purified by silica gel column chromatography to obtain 1.7 g of the title compound (56%).

reactant | 2-mercaptobenzimidazole | 9.27 mmol, 1.39 g | SC=1NC2=C(N1)C=CC=C2 | C7H6N2S
reactant | 2-chloromethyl-4-(3-hydroxypropoxy)-3-methylpyridine | 9.27 mmol, 2.0 g | ClCC1=NC=CC(=C1C)OCCCO | C10H14ClNO2
reactant | sodium hydroxide | 11.1 mmol, 0.44 g | [OH-].[Na+]
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 2-[{4-(3-Hydroxypropoxy)-3-methylpyridine-2-yl}methylthio]-1H-benzimidazole | 1.7 g, 56% | OCCCOC1=C(C(=NC=C1)CSC1=NC2=C(N1)C=CC=C2)C | C17H19N3O2S
